US06521666B1
A solution of N-(4-amino-2-chlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine (57 mg) in DMF (1.5 mL) was added to a solution of 1,1′-thiocarbonyldiimidazole (28 mg) in DMF (1 mL) under N2 at 0° C. over a 2.5 h period. The mixture was then allowed to warm up slowly to room temperature and stirred for an additional 2 h. Benzylamine (21 μL) was then added and the resulting mixture stirred for 2 h at 80° C. The mixture was concentrated, and the residue was taken up with CH2Cl2 and washed with 1N HCl and water. The organic layer was dried (MgSO4), filtered and evaporated. The residue was purified by preparative TLC (silica gel; eluent: CH2Cl2/MeOH/Et3N 100:1:1) to give a solid. The solid was taken up with CH2Cl2 and washed with 1N HCl, dried and evaporated to give N-[4-(3-benzylthioureido)-2-chlorobenzoyl]-4-(2-methoxyphenyl)-L-phenylalanine methyl ester (42 mg).

reactant | N-(4-amino-2-chlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine | 57 mg | NC1=CC(=C(C(=O)N[C@@H](CC2=CC=C(C=C2)C2=C(C=CC=C2)OC)C(=O)O)C=C1)Cl | C23H21ClN2O4
reactant | 1,1′-thiocarbonyldiimidazole | 28 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | Benzylamine | 21 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[4-(3-benzylthioureido)-2-chlorobenzoyl]-4-(2-methoxyphenyl)-L-phenylalanine methyl ester | 42 mg | COC([C@@H](NC(C1=C(C=C(C=C1)NC(=S)NCC1=CC=CC=C1)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O | C32H30ClN3O4S
